US04326069
N-(2'-Dimethylaminoethyl)-aspartic acid-4-methyl ester
28.6 g (0.22 mol) of maleic acid-monomethyl ester, 40 ml of triethylamine and 17.6 g (0.20 mol) of 2-dimethylaminoethylamine are reacted in a manner analogous to that described in Example 1. Further processing according to Example 1 yields 14.5 g (33.2% of theory) of a crystalline aspartic acid derivative, which melts at 164° to 166°.

reactant | maleic acid-monomethyl ester | 0.22 mol, 28.6 g | COC(\C=C/C(=O)O)=O | C5H6O4
reactant | 2-dimethylaminoethylamine | 0.20 mol, 17.6 g | CN(CCN)C | C4H12N2
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
product | N-(2'-Dimethylaminoethyl)-aspartic acid-4-methyl ester | 14.5 g, 33.2% | COC(C[C@H](NCCN(C)C)C(=O)O)=O | C9H18N2O4
